US06242561B1
3,4-Di(decanoylamino)thiophene
3,4-Diaminothiophene (2.0 g, 17 mmol) was dissolved in pyridine and the solution was added dropwise to a stirred solution of 6.5 g (34 mmol) of decanoyl chloride (boiling point 125° C. at 45 mbar) via a syringe. It was stirred overnight. The reaction mixture was poured into ice water mixed with concentrated hydrochloric acid and extracted with chloroform. The organic layers were washed with water, 2% strength NaOH and again with water and then dried over MgSO4 which was mixed with active carbon to remove the colored impurities. After evaporating the solvent, a solid was obtained which was recrystallized from a toluene-hexane mixture. The solid had a melting point of 99-100° C. The yield was 6.7 g (90% of theory).

reactant | 3,4-Diaminothiophene | 17 mmol, 2.0 g | NC1=CSC=C1N | C4H6N2S
reactant | decanoyl chloride | 34 mmol, 6.5 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,4-Di(decanoylamino)thiophene | C(CCCCCCCCC)(=O)NC1=CSC=C1NC(CCCCCCCCC)=O | C24H42N2O2S
